US07034093B2
Synthesis of Isobutyraldehyde 2,6-Diisopropylphenylimine
2,6-Diisopropylaniline (9.4 mL, 50 mmol, Aldrich) was mixed with isobutyric aldehyde (9.1 mL, 100 mmol, Aldrich), p-toluenesulfonic acid (0.48 g, 2.5 mmol, Aldrich), chloroform (50 mL) and MgSO4 (12 g, 100 mmol). The mixture was stirred for 2 h at RT. Assay by 1H-NMR (crude reaction mixture) showed the presence of product and starting material (8/1 ratio). The reaction mixture was filtered, the precipitate washed with chloroform (50 mL), and 5 Å molecular sieves were added. After stirring for 20 h at RT the solution was filtered, the molecular sieves were washed with chloroform (2×50 mL), the solvent was evaporated, and the residue distilled at reduced pressure. After a few drops of forerun (67–76° C./27 Pa) product was collected at 76–77° C./27 Pa as a colorless oil, 8.66 g (74.8%). 1H NMR (CDCl3) 7.60 (d, 1H; J=4.8 Hz); 7.20–7.05 (m, 3H); 3.00 (septet, 2H; J=6.8 Hz); 2.78 (d of septets, 1H; J=4.8; 6.7 Hz); 1.33 (d, 6H; J=6.7 Hz); 1.23 (d, 12H; J=6.8 Hz).

reactant | 2,6-Diisopropylaniline | 50 mmol, 9.4 mL | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | isobutyric aldehyde | 100 mmol, 9.1 mL | CC(C)C=O | C4H8O
reactant | p-toluenesulfonic acid | 2.5 mmol, 0.48 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | MgSO4 | 100 mmol, 12 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | Isobutyraldehyde 2,6-Diisopropylphenylimine | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=CC(C)C | C16H25N
